US04006233
Step A: 4'-Nitrovaleranilide
Valeryl chloride (12.06 g., 0.10 mole) is added dropwise to a cooled stirred solution of 4-nitroaniline (13.81 g., 0.10 mole) in pyridine (100 ml.). The resulting mixture is stirred at ambient temperature for one hour then heated (80°-100° C.) for twenty-four hours. The cooled solution is poured into cold 1 N hydrochloric acid (500 ml.) with stirring. The precipitated solid is collected, washed with water and dried, 21.4 g., m.p. 107°-116° C. Recrystallization from butyl chloride provides material of m.p. 115°-118° C.

reactant | Valeryl chloride | 0.10 mole, 12.06 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | 4-nitroaniline | 0.10 mole, 13.81 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | hydrochloric acid | 1 N, 500 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4'-Nitrovaleranilide | [N+](=O)([O-])C1=CC=C(NC(CCCC)=O)C=C1 | C11H14N2O3
